US07728155B2
Treatment of (±)-(6-allyl-5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (4.5 g, 11.4 mmol) with diisopropylethylamine (2.18 mL, 12.5 mmol) followed by trifluoromethanesulfonic anhydride (2.11 g, 12.5 mmol) generally according to the procedure described for Intermediate 44 gave 4.8 g (81%) of (±)-(6-allyl-5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a brown oil. Treatment of the triflate with 9-borabicyclo[3.3.1]nonane (25 mL, 0.5 M in tetrahydrofuran) followed by dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.3 g, 0.37 mmol), and potassium phosphate (2.96 g, 13.9 mmol) generally according to the procedure described for Intermediate 45 afforded 1.4 g (40%) of (±)-(5-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 82-84° C.; Anal. calcd. for C19H19ClO4S: C, 60.23; H, 5.05. Found: C, 60.59; H, 5.06.

reactant | (±)-(6-allyl-5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 11.4 mmol, 4.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C(=C2O)CC=C)Cl | C19H19ClO5S
reactant | diisopropylethylamine | 12.5 mmol, 2.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 12.5 mmol, 2.11 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | (±)-(6-allyl-5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 4.8 g, 81% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C(=C2OS(=O)(=O)C(F)(F)F)CC=C)Cl | C20H18ClF3O7S2
